US06632815B2
1-Boc-4-(4-nitrophenyl)homopiperazine (prepared with 1-fluoro-4-nitrobenzene, 1-Boc-homopiperazine, Cs2CO3 in heated DMF) was dissolved in methanol. To it was added 10% Pd/C. The slurry was stirred under a hydrogen balloon for 2 hrs. It was filtered through celite and evaporated in vacuuo to give 1-(4-aminophenyl)-4-Boc-homopiperazine. ES-MS: (M+H)+292.

reactant | 1-Boc-4-(4-nitrophenyl)homopiperazine | C(=O)(OC(C)(C)C)N1CCN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O4
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(4-aminophenyl)-4-Boc-homopiperazine | NC1=CC=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
